US07713979B2
1-Cyclohexyl-3-(2,4-dichloro-phenylsulfanyl)-4,4-dimethyl-pyrrolidin-2-one
Place toluene-4-sulfonic acid 1-cyclohexyl-4,4-dimethyl-2-oxo-pyrrolidin-3-yl ester (0.102 g, 0.28 mmol), 2,4-dichloro-benzenethiol (0.073 ml, 0.56 mmol) and DBU (0.130 ml, 0.84 mmol) in DMF (3 mL). Stir for 5 hours at 50° C. Quench with water and extract with ethyl acetate. Wash the extract brine and dry over magnesium sulfate, filter, and concentrate. Flash chromatography affords 0.030 g (29%) of the title compound: Mass spectrum (apci) m/z=372 (M+H).

reactant | toluene-4-sulfonic acid 1-cyclohexyl-4,4-dimethyl-2-oxo-pyrrolidin-3-yl ester | 0.28 mmol, 0.102 g | C1(CCCCC1)N1C(C(C(C1)(C)C)OS(=O)(=O)C1=CC=C(C=C1)C)=O | C19H27NO4S
reactant | 2,4-dichloro-benzenethiol | 0.56 mmol, 0.073 ml | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | DBU | 0.84 mmol, 0.130 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-Cyclohexyl-3-(2,4-dichloro-phenylsulfanyl)-4,4-dimethyl-pyrrolidin-2-one | 0.030 g, 29% | C1(CCCCC1)N1C(C(C(C1)(C)C)SC1=C(C=C(C=C1)Cl)Cl)=O | C18H23Cl2NOS
